* BJT Common Emitter Amplifier
* Classic single-transistor amplifier stage
* Voltage gain: ~10x (20dB)
* Q-point: Vc ~ 6V, Ic ~ 1mA

VCC vcc 0 DC 12

* Input coupling and biasing
C1 in base 10u
R1 vcc base 100k
R2 base 0 22k

* Transistor stage
Q1 coll base emit BC547
RC vcc coll 6.8k
RE emit 0 1k
CE emit 0 100u

* Output coupling
C2 coll out 10u
Rload out 0 100k

* BJT Model (BC547 approx - NPN silicon)
.MODEL BC547 NPN(IS=1.8e-14 BF=400 NF=0.995 VAF=100 IKF=0.14 ISE=1.25e-14 
+ NE=1.46 BR=35.5 NR=1.005 VAR=12.5 IKR=0.03 ISC=8.7e-13 NC=1.27 RB=13 RE=0.4
+ RC=0.6 CJE=1.15e-11 TF=4.75e-10 CJC=4.6e-12 VJC=0.58 MJC=0.318 TR=2.35e-7)

* Input signal source (placeholder - PWL injected during validation)
*VIN in 0 SIN(0 0.01 1000)

* Control statements
.TRAN 1u 10m
.PRINT TRAN V(out) V(in) V(coll) V(base)

.END
